US08486950B2
To a solution of 2,6-dichloroterephthalic acid (100 mg, 0.46 mmol) in dichloromenthane was added CDI (62 mg, 0.46 mmol) in one portion. The reaction mixture was stirred at room temperature for 1.5 hours and then dimethyl amine (1.0 M in THF, 2 mL, 2.0 mmol) was added. The reaction was concentrated under reduced pressure to give the crude 2,6-dichloro-4-(dimethylcarbamoyl)benzoic acid, which was used in the next step without further purification. 1H NMR (500 MHz, DMSO-d6): δ 14.35 (s, 1H), 7.56 (s, 2H), 2.97 (s, 3H), 2.89 (s, 3H).

reactant | 2,6-dichloroterephthalic acid | 0.46 mmol, 100 mg | ClC1=C(C(=O)O)C(=CC(=C1)C(=O)O)Cl | C8H4Cl2O4
reactant | CDI | 0.46 mmol, 62 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dimethyl amine | 2.0 mmol, 1.0 M, 2 mL | CNC | C2H7N
solvent | dichloromenthane | ClC1C(CCC(C1)C(C)C)(C)Cl | C10H18Cl2
product | 2,6-dichloro-4-(dimethylcarbamoyl)benzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)C(N(C)C)=O)Cl | C10H9Cl2NO3
